US07384950B2
a) Methyl 6-[3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl]-1-isobutyl-3-methyl-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carboxylate
Prepared from methyl 6-(bromomethyl)-1-isobutyl-3-methyl-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carboxylate (500 mg), zinc acetylacetonate hydrate and phenyl hydrazine following the procedure of example 26, part a). Crude product was purified by column chromatography over silica, eluting with ethyl acetate/iso-hexane (2:3) to give the sub-title compound (555 mg) as a solid. MS(ESI) 481 [M+H]+. δ 1HDMSO 0.95 (6H, d), 2.24 (3H, s), 2.27 (3H, s), 2.20-2.30 (1H, m), 3.39 (3H, s), 3.71 (2H, d), 3.95 (3H, s), 3.96 (2H, s), 7.36-7.50 (5H, m).

reactant | methyl 6-(bromomethyl)-1-isobutyl-3-methyl-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carboxylate | 500 mg | BrCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)C(=O)OC | C14H17BrN2O4S
reactant | phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
catalyst | zinc acetylacetonate hydrate | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Zn]
product | Methyl 6-[3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl]-1-isobutyl-3-methyl-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carboxylate | 555 mg | CC1=NN(C(=C1CC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)C(=O)OC)C)C1=CC=CC=C1 | C25H28N4O4S
